US04355037
1-Acetyl-4-(5-fluoro-2-hydroxybenzoyl)piperidine oxime
A mixture of 12.7 g of 1-acetyl-4-(5-fluoro-2-hydroxybenzoyl)piperidine, 6.6 g of hydroxylamine hydrochloride, 11.0 g of ammonium acetate and 200 ml of ethanol-ether was heated under reflux for 10 hrs. After cooling, most of the ethanol was removed under reduced pressure. The resultant suspension was diluted with water and extracted with dichloromethane. The dichloromethane was evaporated in vacuo to give an oil. The oil was dissolved in ethyl acetate and cyclohexane was added to precipitate a solid. The solid was recrystallized from ethyl acetate to give 8.8 g (65.4%) of product, mp, 181°-183°. The chromatogram showed 2 spots.

reactant | 1-acetyl-4-(5-fluoro-2-hydroxybenzoyl)piperidine | 12.7 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)F)O)=O | C14H16FNO3
reactant | hydroxylamine hydrochloride | 6.6 g | Cl.NO
reactant | ammonium acetate | 11.0 g | C(C)(=O)[O-].[NH4+]
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1-Acetyl-4-(5-fluoro-2-hydroxybenzoyl)piperidine oxime | 8.8 g, 65.4% | C(C)(=O)N1CCC(CC1)C(C1=C(C=CC(=C1)F)O)=NO | C14H17FN2O3
